US07750003B2
Phenyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-yl]carbamate
A mixture of 5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-amine (1.05 g, 2.6 mmol), phenyl chloroformate (618 mg, 3.9 mmol) and sodium hydrogen carbonate (311 mg, 3.9 mmol) in dioxane (10 mL) was stirred at RT for 2 hours then diluted with ethyl acetate and washed with water (150 mL) and brine (100 mL). The organics were dried over magnesium sulphate and concentrated in vacuo. The residue was recrystallised from diethyl ether and hexane to give the desired product as a beige solid (1 g).

reactant | 5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-amine | 2.6 mmol, 1.05 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C)C1=CN=C(S1)N | C16H23N5O3S2
reactant | phenyl chloroformate | 3.9 mmol, 618 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydrogen carbonate | 3.9 mmol, 311 mg | C(O)([O-])=O.[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Phenyl N-[5-[4-[(3S)-3-methylmorpholin-4-yl]-6-(2-methylsulfonylpropan-2-yl)pyrimidin-2-yl]-1,3-thiazol-2-yl]carbamate | 1 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C)C1=CN=C(S1)NC(OC1=CC=CC=C1)=O | C23H27N5O5S2
